US06310056B1
To a solution of 5.0 g of 7-iodoimidazo[5,1-b]thiazole in 40 ml of NMP were added under the atmosphere of argon 550 mg of tris(dibenzilideneacetone) dipalladium, 558 mg of tri-2-furyl phosphine, and 6.42 ml of tri-n-butylvinyltin, and the mixture was reacted at 70° C. for 1.5 hours, and at 80° C. for 2 hours. The reaction mixture was poured into a mixture of 50 ml of a saturated aqueous sodium hydrogen carbonate solution and 50 ml of a saturated saline, and extracted two times with 200 ml of ethyl acetate. The organic layers were combined, washed three times with 200 ml of saline, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (dichloromethane:ethyl acetate=15:1) to give 7-vinylimidazo[5,1-b]thiazole in an amount of 1.99 g.

reactant | 7-iodoimidazo[5,1-b]thiazole | 5.0 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | tri-2-furyl phosphine | 558 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | tri-n-butylvinyltin | 6.42 ml | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | NMP | 40 ml | CN1CCCC1=O | C5H9NO
catalyst | tris(dibenzilideneacetone) dipalladium | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 7-vinylimidazo[5,1-b]thiazole | C(=C)C=1N=CN2C1SC=C2 | C7H6N2S
